US05635510
49.2 Synthesis of 8-tert-butoxycarbonyl-3-benzyl-1-(4-fluoro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]decane
Combine 8-tert-butoxycarbonyl-1-(4-fluoro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]decane (12 mmol) and DMF (20 mL). Cool in an ice bath. Add NaH (18 mmol) in several portions. After the addition is complete, add benzyl bromide (18 mmol). Allow the reaction mixture to warm to ambient temperature. After 3 h, cool the reaction vessel using an ice bath and cautiously add 10% aqueous citric acid (20 mL). When gas evolution has ceased, pour into an additional 20 mL of 10% aqueous citric acid and extract using ethyl acetate (3×60 mL). Extract the combined organics with saturated aqueous NaCl, dry over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Purify to obtain the title compound.

reactant | 8-tert-butoxycarbonyl-1-(4-fluoro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]decane | 12 mmol | C(C)(C)(C)OC(=O)N1CCC2(C(NCN2C2=CC=C(C=C2)F)=O)CC1 | C18H24FN3O3
reactant | NaH | 18 mmol | [H-].[Na+]
reactant | benzyl bromide | 18 mmol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 8-tert-butoxycarbonyl-3-benzyl-1-(4-fluoro-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]decane | C(C)(C)(C)OC(=O)N1CCC2(C(N(CN2C2=CC=C(C=C2)F)CC2=CC=CC=C2)=O)CC1 | C25H30FN3O3
